US07410991B2
Intermediate 1.1: Methyl 4-(bromoethyl)benzoate
A 2 M solution in hexane of trimethylsilyldiazomethane (0.072 mol, 36 mL) was added dropwise to a solution of 4-(bromoethyl)benzoic acid (15 g, 0.065 mol) in DCM (150 mL) and MeOH (36 mL). The resulting solution was stirred at RT for 2 h then was concentrated under reduced pressure to afford the title compound (15.8 g, 98%) as a pale yellow oil. 1H NMR (CDCl3) δ 3.2 (t, 2H), 3.6 (t, 2H), 3.9 (s, 3H), 7.3 (d, 2H), 8.0 (d, 2H).

reactant | trimethylsilyldiazomethane | 0.072 mol, 36 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 4-(bromoethyl)benzoic acid | 0.065 mol, 15 g | BrCCC1=CC=C(C(=O)O)C=C1 | C9H9BrO2
solvent | hexane | CCCCCC | C6H14
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 36 mL | CO | CH4O
product | Methyl 4-(bromoethyl)benzoate | 15.8 g, 98% | BrCCC1=CC=C(C(=O)OC)C=C1 | C10H11BrO2
